Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
Robotic Assisted-Sacrocolpopexy, Cystoscopy

 
History of Present Illness:
Ms. ___ is a lovely ___ P2 presenting with worsening 
sensation of vaginal bulge since ___. She reports first 
being bothered by this sensation in ___ of this year after 
undergoing a colonoscopy, with post-procedural course 
complicated by a course of diverticulitis. She now feels a 
constant sensation of vaginal bulge and pressure that interferes 
with her life. 

She does not report urinary leakage spontaneously or with 
activity. She voids every ___ hours during the day and does not 
need to get up at night to void. She never experiences urinary 
urgency, and never has episodes of urge incontinence. 

She does feel it is often hard for her to empty her bladder 
completely, and feels like her stream is not very strong. She 
reports sometimes having to sit on the toilet twice within a few 
minutes to completely empty her bladder. 

She has tried ___ exercises, but has not tried any other form 
of treatment.

She denies recurrent UTIs, a history of bladder/renal stones, 
hematuria, dysuria, pain or pressure with voiding, feeling of 
incomplete emptying, straining to void. Her urine stream is 
normal, intermittent, hesitant, slow. She does not splint to
urinate and/or defecate.

She does not have issues with constipation or diarrhea. She 
denies fecal incontinence. She is married but is not sexually 
active.
 
Past Medical History:
PAST MEDICAL HISTORY:
- Vestibular migraines
- Orthostatic intolerance
- Diverticulitis

PAST SURGICAL HISTORY
- Tubal ligation ___
- Total abdominal hysterectomy for symptomatic fibroids (ovaries
not removed) ___ 

PAST OBSTETRICAL HISTORY: G2P2
- History of 2 spontaneous vaginal deliveries and one 
miscarriage. Largest baby delivered vaginally 7.2 pounds. No 
history of forceps or vacuum-assisted delivery.

PAST GYNECOLOGIC HISTORY
Last period in ___ at time of hysterectomy. Previously had 
regular but heavy periods. No history of STIs.
 
Social History:
___
Family History:
Significant for father and grandfather with colon cancer and 
mother with ovarian cancer and high blood pressure.

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 06:23AM BLOOD WBC-12.5* RBC-4.44 Hgb-12.4 Hct-39.5 
MCV-89 MCH-27.9 MCHC-31.4* RDW-12.5 RDWSD-40.8 Plt ___
___ 06:23AM BLOOD Glucose-91 UreaN-16 Creat-0.7 Na-139 
K-4.8 Cl-104 HCO3-26 AnGap-14
___ 06:23AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing robotic-assisted sacrocolpopexy and cystoscopy. 
Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
Overnight on POD#0, she was noted to have low urine output. She 
was given a 500cc bolus and her UOP improved. A CBC was drawn in 
the AM of POD#1 which revealed a hct of 39.5, stable from 41.0 
at baseline. She also complained of chest tightness. An EKG was 
done that revealed sinus tachycardia. She also reported a 
significant history of GERD. Her symptoms resolve with 
ranitidine. On post-operative day 1, her urine output was 
adequate so her foley was removed and she passed a trial of 
void. Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone, ibuprofen, and acetaminophen.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ranitidine 75 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Loratadine 10 mg PO DAILY  
7.  Pravastatin 20 mg PO QPM  
8.  Ranitidine 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___